US04166119
A stirred suspension under nitrogen of 1.5 g of lithium aluminum hydride in 150 ml of tetrahydrofuran is treated with a solution of 2,3-dihydro-1'-(indol-3-ylglyoxyloyl)spiro[benzofuran-2,4'-piperidine], Example 22, in 75 ml of tetrahydrofuran according to the procedure of Example 22 to provide a tan solid. The solid is successively recrystallized from an ethyl alcohol-water mixture, chromatographed through a silica gel column with a 2% methyl alcohol in chloroform eluant and recrystallized from ethyl alcohol to provide the product, 2,3-dihydro-1'-[2-(3-indolyl)ethyl]spiro[benzofuran-2,4'-piperidine], mp 167°-169° C.

reactant | lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,3-dihydro-1'-(indol-3-ylglyoxyloyl)spiro[benzofuran-2,4'-piperidine] | N1C=C(C2=CC=CC=C12)C(C(=O)N1CCC2(CC1)OC1=C(C2)C=CC=C1)=O | C22H20N2O3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 2,3-dihydro-1'-[2-(3-indolyl)ethyl]spiro[benzofuran-2,4'-piperidine] | N1C=C(C2=CC=CC=C12)CCN1CCC2(CC1)OC1=C(C2)C=CC=C1 | C22H24N2O
